US08202868B2
c.3.2: (S)-Acetic acid 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propyl ester
3.87 g of 2-tert-butyl-4-cyclobutyl-6-piperazin-1-yl-pyrimidine (14.1 mmol) were stirred in 30 ml of dimethylformamide at room temperature. 3.18 g of triethylamine (63.1 mmol), 0.235 g of sodium iodide (1.57 mmol), 2.96 g of (R)-(−)-1-acetoxy-3-bromo-2-methyl-propane (15.2 mmol) were added and the reaction mixture was stirred for 5 h at 95° C. The dimethylformamide was evaporated under reduced pressure. The residue was partitioned between 100 ml of dichloromethane and 100 ml of water. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure to give a brownish oil (5.64 g).

reactant | 2-tert-butyl-4-cyclobutyl-6-piperazin-1-yl-pyrimidine | 14.1 mmol, 3.87 g | C(C)(C)(C)C1=NC(=CC(=N1)C1CCC1)N1CCNCC1 | C16H26N4
reactant | triethylamine | 63.1 mmol, 3.18 g | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.57 mmol, 0.235 g | [I-].[Na+]
reactant | (R)-(−)-1-acetoxy-3-bromo-2-methyl-propane | 15.2 mmol, 2.96 g | C(C)(=O)OC[C@H](CBr)C | C6H11BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-Acetic acid 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propyl ester | 5.64 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)C[C@@H](COC(C)=O)C)C1CCC1 | C22H36N4O2
